US07402595B2
[Step 2] 4-(6-bromo-1-oxo-4-phenyl-3-propionyl-1H-isoquinolin-2-ylmethyl)benzenesulfonamide
To a solution of 4-[(2-hydroxybutylamino)methyl]benzenesulfonamide hydrochloride (842 mg) and 2-benzoyl-4-bromobenzoic acid (915 mg) and 1-hydroxy-1H-benzotriazole (643 mg) in DMF (20 ml) was added triethylamine (1.25 ml) and then WSC (1.03 g) was added at room temperature, and the mixture was stirred at room temperature for 15 hrs. The solvent was evaporated under reduced pressure, and the residue was partitioned between dichloromethane and water, washed with 1N hydrochloric acid, aqueous sodium hydrogen carbonate and brine and dried by adding sodium sulfate. The solvent was evaporated under reduced pressure and the obtained residue was purified by silica gel column chromatography (n-hexane/ethyl acetate=1/1→1/9). The obtained colorless amorphous form was dissolved in dichloromethane (20 ml) and 4-methylmorpholine N-oxide (612 mg) and molecular sieves 4A (500 mg) were added. Under ice-cooling, tetra-n-propylammonium perruthenate (31 mg) was added, and the mixture was stirred at room temperature for 3 hrs. The molecular sieves 4A was removed from the reaction solution by filtration. The solvent was evaporated under reduced pressure and the obtained residue was purified by silica gel column chromatography (n-hexane/ethyl acetate=7/3→1/1). The obtained colorless amorphous form was dissolved in ethanol (20 ml) and 1,8-diazabicyclo[5.4.0]-7-undecene (0.84 ml) was added. The mixture was heated under reflux for 12 hrs. The solvent was evaporated under reduced pressure, and the residue was partitioned between ethyl acetate and 1N hydrochloric acid, washed with aqueous sodium hydrogen carbonate and brine and sodium sulfate was added to dry the mixture. The solvent was evaporated under reduced pressure and the obtained residue was purified by silica gel column chromatography (n-hexane/ethyl acetate=7/3→1/1) to give the title compound (267 mg, 17%).

reactant | 4-[(2-hydroxybutylamino)methyl]benzenesulfonamide hydrochloride | 842 mg | Cl.OC(CNCC1=CC=C(C=C1)S(=O)(=O)N)CC
reactant | 2-benzoyl-4-bromobenzoic acid | 915 mg | C(C1=CC=CC=C1)(=O)C1=C(C(=O)O)C=CC(=C1)Br | C14H9BrO3
reactant | 1-hydroxy-1H-benzotriazole | 643 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | WSC | 1.03 g | CCN=C=NCCCN(C)C | C8H17N3
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | triethylamine | 1.25 ml | C(C)N(CC)CC | C6H15N
product | 4-(6-bromo-1-oxo-4-phenyl-3-propionyl-1H-isoquinolin-2-ylmethyl)benzenesulfonamide | 267 mg, 17% | BrC=1C=C2C(=C(N(C(C2=CC1)=O)CC1=CC=C(C=C1)S(=O)(=O)N)C(CC)=O)C1=CC=CC=C1 | C25H21BrN2O4S
